US07888349B2
Ammonium hydroxide (5 mL) was added with vigorous stirring to a suspension of 10,10-dimethyl-9-(methylsulfonyl)-5-oxido-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline (0.91 g, 2.6 mmol) in dichloromethane (25 mL). p-Toluenesulfonyl chloride (0.50 g, 2.6 mmol) was added in one portion, and the reaction was stirred for four hours at ambient temperature. The organic layer was separated and washed with 1% aqueous sodium carbonate (50 mL) and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The resulting orange solid (0.77 g) was recrystallized from 1,2-dichloroethane to provide 10,10-dimethyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine as a white powder, mp 227-228° C.

reactant | Ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | 10,10-dimethyl-9-(methylsulfonyl)-5-oxido-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline | 2.6 mmol, 0.91 g | CC1(N(CC=2N(C3=C(C=[N+](C4=CC=CC=C34)[O-])N2)C1)S(=O)(=O)C)C | C16H18N4O3S
reactant | p-Toluenesulfonyl chloride | 2.6 mmol, 0.50 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 10,10-dimethyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | CC1(N(CC=2N(C3=C(C(=NC4=CC=CC=C34)N)N2)C1)S(=O)(=O)C)C | C16H19N5O2S
